US06693126B2
Piperonal(15.0 g, 0.10 mol) was dissolved in methanol(150 ml), and hydroxylamine hydrochloride(10.5 g, 0.15 mol) and water(15 ml) were added thereto. The mixture was stirred for 1 hour at room temperature, then excess water was added, and the resulting mixture was stirred for further 1 hour. The white solid thus obtained was washed with water under reduced pressure, filtered, and dried to give (hydroxyimino)-(benzo[3,4-d]1,3-dioxolan-5-yl)methane(15.7 g, Yield 95%).

reactant | Piperonal | 0.10 mol, 15.0 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | hydroxylamine hydrochloride | 0.15 mol, 10.5 g | Cl.NO
reactant | water | 15 ml | O | H2O
solvent | methanol | 150 ml | CO | CH4O
product | (hydroxyimino)-(benzo[3,4-d]1,3-dioxolan-5-yl)methane | 15.7 g, Yield 95% | ON=CC1=CC2=C(OCO2)C=C1 | C8H7NO3
